US05053509
A suspension of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.015 g) and (RS)-2-[4-(2-hydroxyethoxy)phenyl]-piperazine (1.7 g) in dimethyl sulphoxide (15 cc) is heated with stirring to a temperature in the region of 100° C. for 2 hours and a half. After cooling to approximately 20° C., the suspension is treated with water (30 cc), drained and washed with water (3×10 cc). After one recrystallization in dimethylformamide (15 cc), (RS)-7-fluoro-8-{3-[4-(2-hydroxyethoxy)phenyl]-1-piperazinyl}-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.2 g)is obtained in the form of a yellow solid, m.p. 276° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.015 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | (RS)-2-[4-(2-hydroxyethoxy)phenyl]-piperazine | 1.7 g | OCCOC1=CC=C(C=C1)C1NCCNC1 | C12H18N2O2
reactant | water | 30 cc | O | H2O
solvent | dimethyl sulphoxide | 15 cc | CS(=O)C | C2H6OS
product | (RS)-7-fluoro-8-{3-[4-(2-hydroxyethoxy)phenyl]-1-piperazinyl}-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.2 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(NCC1)C1=CC=C(C=C1)OCCO | C26H25FN4O5
